US06858628B2
a. 4-(2-Methoxyethoxy)-phenylsulfonyl chloride
Methylsulfoxide (400 mL) is cooled with an ice/water bath with mechanical stirring and charged with potassium hydroxide pellets (118.2 g, 2.11 mole) followed by phenol (94.1 g, 0.70 mole) and then 2-bromoethylmethyl ether (86 mL, 0.9 mole) is added at a rapid dripping rate. The mixture is stirred for 15 min., warmed to room temperature and then stirred for 2 hrs. It is then diluted with 1 L of ice/water and extracted 2 times with CH2Cl2. The combined organic layers were then dried over MgSO4, filtered and evaparated The yield is in excess of 100% so it is taken in CHCl3 and washed 2 times with water and 1 time with brine. This organic layer was processed similarly and the concentrate was taken in 1.1 L of CH2Cl2 in a mechanically stirred flask 5 L flask. Chlorosulfonic acid (140 mL, 2.1 mole) is added dropwise causing slight warming A heavy precipitate is observed after addition of half of the reagent, so the mixture is diluted with 1.1 L of additional CH2Cl2. The resulting mixture is allowed to stir at rt for 16 hrs. It is then poured onto ˜2 L of ice/water. The layers are separated and the aqueous layer is extracted two times with CH2Cl2. The combined organic layers are then combined, dried over MgSO4, filtered and evaparated to give the desired material which is sufficiently pure to carry forward without purification. ESI MS: m/z (rel intensity) 247.1 (M++H, 35), 264.1 (M++NH3, 100), 269.0 (M++Na, 45).

reactant | potassium hydroxide | [OH-].[K+]
reactant | phenol | 0.70 mole, 94.1 g | C1(=CC=CC=C1)O | C6H6O
reactant | 2-bromoethylmethyl ether | 0.9 mole, 86 mL | BrCCOC | C3H7BrO
reactant | Chlorosulfonic acid | 2.1 mole, 140 mL | ClS(=O)(=O)O | ClHO3S
solvent | CH2Cl2 | 1.1 L | C(Cl)Cl | CH2Cl2
solvent | Methylsulfoxide | 400 mL | CS(=O)C | C2H6OS
product | 4-(2-Methoxyethoxy)-phenylsulfonyl chloride | COCCOC1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO4S
